US06969766B2
1-(Benzothiazole-2-sulfonyl)-4-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 11.00 (brs, 1H), 8.34 (m, 1H), 8.26 (m, 1H), 7.90 (d, 0.6H), 7.84 (d, 0.4H), 7.72 (m, 2H), 7.44 (d, 4H), 7.37 (t, 4H), 7.29 (t, 2H), 6.94 (t, 1H), 6.79 (s, 1H), 4.82 (s, 1.2H), 4.72 (s, 0.8H), 4.45 (s, 0.8H), 4.28 (s, 1.2H), 4.22 (t, 1.2H), 4.07 (t, 0.8H), 3.99 (t, 1.2H), 3.86 (t, 0.8H).

reactant | 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CNCC2)=O
reactant | [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C20H17N3O5
product | 1-(Benzothiazole-2-sulfonyl)-4-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-piperazin-2-one | S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CN(CC2)C(CN2C(=O)N=C(NC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=C2)=O)=O | C31H26N6O7S2
